US07125903B1
Preparation of (2R)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-[3-(1-methyl-1H-thieno[3,2-c]pyrazol-3-yl)-phenoxy]-propan-2-ol
Add a solution of 1,2,3,4-tetrahydroisoquinoline (Aldrich Chemical Company) in absolute ethanol (0.0465 g, 0.200 M solution, 1.745 mL, 2.0 equiv.) to a reaction tube. Add absolute ethanol (3 mL) to the reaction tube and then add a solution of (R)-1-methyl-3-(3-oxiranylmethoxy-phenyl)-1H-thieno[3,2-c]pyrazole and absolute ethanol (example 8, 0.050 g, 0.200 M solution, 0.875 mL). Shake the reaction mixture under Argon at reflux temperature overnight in a Bohdan apparatus. Cool and concentrate to remove the solvent. Purify the residue by flash chromatography (5 g silica gel SepPak cartridge) eluting in step gradient fashion sequentially with 2% and 5% methanol in dichloromethane, and dichloromethane:methanol:ammonium hydroxide solution, 90:9:1. Combine and concentrate the desired fractions to give the title compound (0.0796 g), LC/MS (APCI, condition 3) m/e 420 (MH+), retention time 5.16 min.

reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | (R)-1-methyl-3-(3-oxiranylmethoxy-phenyl)-1H-thieno[3,2-c]pyrazole | CN1N=C(C2=C1C=CS2)C2=CC(=CC=C2)OC[C@@H]2OC2 | C15H14N2O2S
solvent | ethanol | 0.200 M, 0.875 mL, 0.050 g | C(C)O | C2H6O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 0.200 M, 1.745 mL, 0.0465 g, 2.0 equiv. | C(C)O | C2H6O
product | (2R)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-[3-(1-methyl-1H-thieno[3,2-c]pyrazol-3-yl)-phenoxy]-propan-2-ol | 0.0796 g | C1N(CCC2=CC=CC=C12)C[C@H](COC1=CC(=CC=C1)C=1C2=C(N(N1)C)C=CS2)O | C24H25N3O2S
